US05594021
2-(4-methoxycarbonylphenyl)thiophene was prepared in the same manner as described in Example 32C from thiophene-2-boronic acid (1.0 g, 7.81 mmol) and methyl-4-bromobenzoate (1.68 g, 7.81 mmol). Purification by column chromatography using 2% ethyl acetate/hexanes gave 1.1 g of 2-(4-methoxycarbonylphenyl)thiophene as a white solid (65% yield).

reactant | thiophene-2-boronic acid | 7.81 mmol, 1.0 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | methyl-4-bromobenzoate | 7.81 mmol, 1.68 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
product | 2-(4-methoxycarbonylphenyl)thiophene | 1.1 g, 65% yield | COC(=O)C1=CC=C(C=C1)C=1SC=CC1 | C12H10O2S
